US06001997
(a) 5-Acetoxymethylfuran-2-carboxylic acid
A mixture of 5-hydroxymethylfuran-2-carboxylic acid (5.90 g), dry dichloromethane (100 ml), pyridine (6.71 ml), 4-dimethyl-aminopyridine (507 mg), and acetic anhydride (4.21 ml) was stirred for 2 hours at room temperature. The mixture was diluted with ethyl acetate and washed with 5M hydrochloric acid and brine (3 times), dried (MgSO4), and evaporated. The residue was re-evaporated twice from dry toluene to give the title acid as a solid (5.00 g); δH [(CD3)2CO) 2.05 (3 H, s), 5.11 (2 H, s), 6.62 (1 H, d, J 4 Hz), 7.17 (1 H, d, J 4 Hz) and 8.31 (1 H, br s).

reactant | 5-hydroxymethylfuran-2-carboxylic acid | 5.90 g | OCC1=CC=C(O1)C(=O)O | C6H6O4
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | pyridine | 6.71 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4.21 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Acetoxymethylfuran-2-carboxylic acid | 5.00 g | C(C)(=O)OCC1=CC=C(O1)C(=O)O | C8H8O5
